*
* NGSPICE simulation script
*

* forces current values to be saved
.options savecurrents

* voltage source
Va 7 4 DC 5.18382634375
Vsource 4 8 DC 0.0

* Current Source
Id 1 2 DC 1.02590436129m

*Resistances
R1 3 7 1.04408633697k
R2 6 3 2.04051610808k
R3 0 3 3.07566747417k
R4 0 4 4.05936218175k
R5 0 2 3.05878343538k
R6 8 5 2.0603640429k
R7 5 1 1.04299566201k

* Linear Voltage-Controlled Current Source
Gib 2 6 3 0 7.2865951329m

* Linear Current-Controlled Voltage Source
Hvc 0 1 Vsource 8.22752594192k

.control

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

echo  "op_TAB"
print all
echo  "op_END"

quit
.endc

.end
